US04952571
Morpholine (10.8 ml) was added to a stirred suspension of 5,6-dimethoxy-benzo[b]thiophene-2-carboxaldehyde (5.0 g) and p-toluenesulphonic acid monohydrate (4.3 g) in dry dioxan (43 ml) under an atmosphere of nitrogen. The mixture was heated at reflux for 30 min. and then the resultant solution was cooled to 50° C. and treated in one portion with a suspension of potassium cyanide (1.46 g) in water (2.5 ml). The reaction mixture was heated at reflux for 1 hour then cooled to room temperature and treated with 15% w/v potassium carbonate in water (20 ml). The reaction mixture was then diluted with water (200 ml) and the resultant precipitate was filtered and dried to give 2-(5,6-dimethoxy-benzo[b]thien-2-yl)-2-(4-morpholinyl)acetonitrile as a pale yellow solid (6.54 g). A portion crystallized from dichloromethane/diethyl ether had m.p. 196°-199° C.

reactant | Morpholine | 10.8 ml | N1CCOCC1 | C4H9NO
reactant | 5,6-dimethoxy-benzo[b]thiophene-2-carboxaldehyde | 5.0 g | COC1=CC2=C(SC(=C2)C=O)C=C1OC | C11H10O3S
reactant | p-toluenesulphonic acid monohydrate | 4.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | potassium cyanide | 1.46 g | [C-]#N.[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dioxan | 43 ml | O1CCOCC1 | C4H8O2
solvent | water | 2.5 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-(5,6-dimethoxy-benzo[b]thien-2-yl)-2-(4-morpholinyl)acetonitrile | 6.54 g | COC1=CC2=C(SC(=C2)C(C#N)N2CCOCC2)C=C1OC | C16H18N2O3S
